US08034949B2
A mixture of 4-dimethylsulfamoylbenzoic acid (688 mg) and thionyl chloride (5 mL) was stirred at 90° C. overnight. The reaction mixture was concentrated to give 4-dimethylsulfamoylbenzoyl chloride (495 mg) as a white solid.

reactant | 4-dimethylsulfamoylbenzoic acid | 688 mg | CN(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)C | C9H11NO4S
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-dimethylsulfamoylbenzoyl chloride | 495 mg | CN(S(=O)(=O)C1=CC=C(C(=O)Cl)C=C1)C | C9H10ClNO3S
